************************************************************************
* auCdl Netlist:
* 
* Library Name:  EECS392
* Top Cell Name: XOR
* View Name:     schematic
* Netlisted on:  May 26 21:56:38 2013
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: EECS392
* Cell Name:    XOR
* View Name:    schematic
************************************************************************

.SUBCKT XOR A B Output
*.PININFO A:I B:I Output:O
MM2 Output A B vdd! PMOS_VTG W=300n L=50n m=1
MM1 Output B A vdd! PMOS_VTG W=300n L=50n m=1
MM0 net9 A vdd! vdd! PMOS_VTG W=300n L=50n m=1
MM5 Output net9 B gnd! NMOS_VTG W=280.0n L=50n m=1
MM4 Output B net9 gnd! NMOS_VTG W=280.0n L=50n m=1
MM3 net9 A gnd! gnd! NMOS_VTG W=280.0n L=50n m=1
.ENDS

